US07420001B2
To 5-trifluoromethyl-benzothiazole-2-carboxylic acid ethyl ester (200 mg, 0.73 mmol) was added 3 mL of THF, and 0.73 mL (2 eq) of NaOH solution (2N in MeOH). The reaction mixture was stirred at room temperature overnight. The suspension was filtered and the solid was dried under vacuum to give 270 mg of 5-trifluoromethyl-benzothiazole-2-carboxylic acid sodium salt as an off-white solid.

reactant | 5-trifluoromethyl-benzothiazole-2-carboxylic acid ethyl ester | 0.73 mmol, 200 mg | C(C)OC(=O)C=1SC2=C(N1)C=C(C=C2)C(F)(F)F | C11H8F3NO2S
reactant | NaOH | 2N, 0.73 mL, 2 eq | [OH-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 5-trifluoromethyl-benzothiazole-2-carboxylic acid sodium salt | 270 mg | [Na+].FC(C=1C=CC2=C(N=C(S2)C(=O)[O-])C1)(F)F | InChI=1S/C9H4F3NO2S.Na/c10-9(11,12)4-1-2-6-5(3-4)13-7(16-6)8(14)15;/h1-3H,(H,14,15);/q;+1/p-1
